data/oMe_Silver.jsonl
{"reaction_id": "NR-227_1-C1CCCCC1_2-C=CC","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(C1CCCCC1)c1ccccc1","NC(C(OC=CC)(OC=CC))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(C1CCCCC1)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C1CCCCC1)=NC(c1ccccc1)C(OC=CC)(OC=CC)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C1CCCCC1)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(C1CCCCC1)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(C1CCCCC1)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(C1CCCCC1)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
{"reaction_id": "NG-005_1-c1ccc(OC)cc1_2-c1ccc(F)cc1_3-C1C2CCC1C2","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)C=O","C(c1ccc(F)cc1)(C1C2CCC1C2)=O"],"products_smiles": ["C(c1ccc(F)cc1)(C1C2CCC1C2)=C(C=O)c1ccc(OC)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)=C(O)c1ccc(F)cc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)(O)C(C=[OH+])c1ccc(OC)cc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)(O)C(C=O)c1ccc(OC)cc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)([OH2+])C(C=O)c1ccc(OC)cc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)=C(C=O)c1ccc(OC)cc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
